US07109184B2
((11-aminoundecyl)-hydroxyphosphinyl) methylphosphonic acid
((11-N-phthalimidoundecyl)-ethoxyphosphinyl)methylphosphonic acid dimethyl ester (37.15 g, 78 mmol) was dissolved in a mixture of 2-propanol (165 mL) and water (26 mL). The mixture was cooled to about 10° C. in an ice bath and NaBH4 (11.11 g, 293 mmol, 3.8 eq.) was added slowly. The mixture was filtered and then cooled to below 5° C. in an ice bath. Acetic acid (70 mL) was then added slowly to the mixture. When the addition was complete the mixture was heated to 90° C. for 6 days. The mixture was then cooled to room temperature and the solvent removed. Residual water and acetic acid were removed from the residue azeotropically using ethyl acetate (200 mL), and then again using acetone two times (500 mL) and then again using toluene two times (500 mL). The resulting residue was free from acetic acid. This residue was partitioned between water (300 mL) and ethyl acetate (300 mL). The layers were separated and the organic layer was discarded. The aqueous layer was lyophilized to give a mixture of inorganic salts and ((11-aminoundecyl)-ethoxyphosphinyl) methylphosphonic acid. This solid was suspended in HCl (36%, 75 mL) and heated to 90° C. overnight. A clear solution was obtained. The mixture was cooled to room temperature and a solid precipitate formed. This solid was removed by centrifugation and found (by NMR) to contain no product. This solid was discarded. The supernatant was concentrated and again a solid appeared as a suspension in solution. HCl was removed from this suspension azeotropically using water (100 mL). After removal of HCl, an oily suspension was obtained. When additional water was added (100 mL), the product appeared as a white solid. This solid was collected by centrifugation. The solid was washed two times with acetone (70 mL) and dried in vacuum oven at 35° C. (recovery=9.98 g). A second crop was obtained by concentrating the supernatant and heating it with HCl (36%, 40 mL) for 2 hours. The solvent was removed to dryness and the mixture was suspended in water (20 mL), centrifuged to collect solid product, and the solid was washed with water (10 mL) and two times with acetone (20 mL) (recovery=2 g). 1H NMR (D2O) δ=2.3 (t, 2H), 1.6 (t, 2H), 1.4 (m, 2H), 1.2–1.0 (m, 18H). 31P NMR (D2O) δ=13.8, 42.6.

reactant | NaBH4 | 293 mmol, 11.11 g, 3.8 eq. | [BH4-].[Na+]
reactant | ((11-aminoundecyl)-ethoxyphosphinyl) methylphosphonic acid | NCCCCCCCCCCCP(=O)(OCC)CP(O)(O)=O | C14H33NO5P2
solvent | 2-propanol | 165 mL | CC(C)O | C3H8O
solvent | water | 26 mL | O | H2O
solvent | HCl | 75 mL | Cl | ClH
product | ((11-aminoundecyl)-hydroxyphosphinyl) methylphosphonic acid | NCCCCCCCCCCCP(=O)(O)CP(O)(O)=O | C12H29NO5P2
